US06225320B1
2-Bromo-3-methoxy-6-trifluoroacetamidopyridine
2-Bromo-3-methoxy-6-aminopyridine (Desc. 6; 1.0 g, 4.9 mmol) in dichloromethane (25 ml) was treated with N,N-diisopropylethylamine (2.2 ml, 12.3 mmol) and the solution cooled to 0° C. Trifluoroacetic acetic anhydride (770 μl, 5.4 mmol) was then added dropwise and the solution stirred to 22° C. over 2 hours. The mixture was then poured into saturated sodium bicarbonate solution (25 ml) and extracted with dichloromethane (25 ml). The extracts were dried (MgSO4) and concentrated in vacuo. The residue was purified by flash silica chromatography to give the product as a white solid (890 mg, 3.0 mmol, 61% yield).

reactant | 2-Bromo-3-methoxy-6-aminopyridine | 4.9 mmol, 1.0 g | BrC1=NC(=CC=C1OC)N | C6H7BrN2O
reactant | N,N-diisopropylethylamine | 12.3 mmol, 2.2 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Trifluoroacetic acetic anhydride | 5.4 mmol, 770 μl | C(C)(=O)OC(C(F)(F)F)=O | C4H3F3O3
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-Bromo-3-methoxy-6-trifluoroacetamidopyridine | 3.0 mmol, 890 mg, 61% yield | BrC1=NC(=CC=C1OC)NC(C(F)(F)F)=O | C8H6BrF3N2O2
